US08134001B2
To a solution of 4-(2-hydroxy-ethoxy)-phenol (4.2 g, 27 mmol) in anhydrous N,N-dimethylformamide (30 mL) at 0° C. was added imidazole (2.1 g, 31 mmol) and tert-butyldimethylchlorosilane (4 g, 27 mmol). The reaction mixture was then stirred at 0° C. for 1 h. The mixture was partitioned between ethyl acetate and water. Organic layer was separated, aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over MgSO4, and concentrated. The residue was purified by chromatography (EtOAc:hexanes=1;4) to give 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenol as a colorless oil (5.1 g, 70%)

reactant | 4-(2-hydroxy-ethoxy)-phenol | 27 mmol, 4.2 g | OCCOC1=CC=C(C=C1)O | C8H10O3
reactant | imidazole | 31 mmol, 2.1 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 27 mmol, 4 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenol | 5.1 g, 70% | C(C)(C)(C)[Si](OCCOC1=CC=C(C=C1)O)(C)C | C14H24O3Si
